data/polar.json
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:31](=[O:2])([N:27]([F:26])[S:30](=[O:3])(=[O:4])[c:50]1[cH:11][cH:38][cH:23][cH:41][cH:14]1)[c:51]1[cH:12][cH:39][cH:24][cH:40][cH:13]1.[cH:5]1[cH:21][cH:33][c:43]([N:25]2[C:7](=[C:28]([c:6]3[cH:15][cH:44][cH:8][cH:45][cH:16]3)[O:9][CH3:46])[N:10]([c:52]3[cH:19][cH:36][cH:32][cH:37][cH:20]3)[N:47]=[C:35]2[c:29]2[cH:48][cH:17][cH:42][cH:18][cH:49]2)[cH:34][cH:22]1>>[O:1]=[S:31](=[O:2])([N-:27][S:30](=[O:3])(=[O:4])[c:50]1[cH:11][cH:38][cH:23][cH:41][cH:14]1)[c:51]1[cH:12][cH:39][cH:24][cH:40][cH:13]1.[cH:5]1[cH:21][cH:33][c:43](-[n:25]2[c:7]([C:28]([c:6]3[cH:15][cH:44][cH:8][cH:45][cH:16]3)([O:9][CH3:46])[F:26])[n+:10](-[c:52]3[cH:19][cH:36][cH:32][cH:37][cH:20]3)[n:47][c:35]2-[c:29]2[cH:48][cH:17][cH:42][cH:18][cH:49]2)[cH:34][cH:22]1", "epd": [["LP-/Pi+", [10], [7, 10]], ["Pi-/Sigma+", [28, 7], [28, 26]], ["Sigma-/LP+", [26, 27], [27]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:5][C:24]([F:7])([F:8])[F:9])[S:3](=[O:34])(=[O:35])[c:10]2[c:39]([cH:37][cH:13][cH:43][cH:46]2)[C:44]1=[O:27].[cH:2]1[cH:21][cH:29][c:38]([N:23]2[C:6](=[C:25]([c:4]3[cH:15][cH:40][cH:11][cH:41][cH:16]3)[O:12][CH3:42])[N:14]([c:49]3[cH:19][cH:32][cH:28][cH:33][cH:20]3)[N:45]=[C:31]2[c:26]2[cH:47][cH:17][cH:36][cH:18][cH:48]2)[cH:30][cH:22]1>>[N:1]1=[C:44]([O-:27])[c:39]2[c:10]([cH:46][cH:43][cH:13][cH:37]2)[S:3]1(=[O:34])=[O:35].[cH:2]1[cH:21][cH:29][c:38](-[n:23]2[c:6]([C:25]([c:4]3[cH:15][cH:40][cH:11][cH:41][cH:16]3)([S:5][C:24]([F:7])([F:8])[F:9])[O:12][CH3:42])[n+:14](-[c:49]3[cH:19][cH:32][cH:28][cH:33][cH:20]3)[n:45][c:31]2-[c:26]2[cH:47][cH:17][cH:36][cH:18][cH:48]2)[cH:30][cH:22]1", "epd": [["LP-/Pi+", [14], [6, 14]], ["Pi-/Sigma+", [25, 6], [25, 5]], ["Sigma-/Pi+", [5, 1], [1, 44]], ["Pi-/LP+", [44, 27], [27]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:15][CH3:14])[c:16]1[cH:12][cH:10][cH:5][cH:11][cH:13]1.[N-:1]=[N+:6]=[C:9]1[CH:7]=[CH:2][CH:3]=[CH:8]1>>[N:1]#[N+:6][C:9]1=[CH:8][CH:3]=[CH:2][CH:7]1[CH:4]([O:15][CH3:14])[c:16]1[cH:12][cH:10][cH:5][cH:11][cH:13]1", "epd": [["LP-/Pi+", [1], [6, 1]], ["Pi-/Pi+", [9, 6], [8, 9]], ["Pi-/Pi+", [3, 8], [2, 3]], ["Pi-/Sigma+", [7, 2], [7, 4]], ["Pi-/LP+", [4, 15], [15]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:13][CH2:14][O:10]1.[O:4]=[N+:19]([O-:9])[c:16]1[cH:5][cH:7][c:11]([CH:17]=[CH:12][N+:15]([O-:18])=[O:20])[cH:8][cH:6]1>>[C:1]1(=[O:3])[N:2]([CH:17]([c:11]2[cH:7][cH:5][c:16]([N+:19](=[O:4])[O-:9])[cH:6][cH:8]2)[CH:12]=[N+:15]([O-:18])[O-:20])[CH2:13][CH2:14][O:10]1", "epd": [["LP-/Sigma+", [2], [2, 17]], ["Pi-/Pi+", [17, 12], [12, 15]], ["Pi-/LP+", [15, 20], [20]]]}
{"reaction_name": "Thioacetal formation", "rsmi": "[O:2]([CH3:7])[H:9].[O:3]=[CH:6][CH3:4].[S:1]([CH3:5])[H:8]>>[O:3]([H:8])[H:9].[S:1]([CH3:5])[CH:6]([O:2][CH3:7])[CH3:4]", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [3, 6], [3]], ["LP-/Sigma+", [3], [3, 8]], ["Sigma-/LP+", [1, 8], [1]], ["LP-/Sigma+", [1], [1, 6]], ["Pi-/LP+", [3, 6], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
{"reaction_name": "Phosphoramidate formation", "rsmi": "[CH3:1][O:5][P:7](=[O:3])([Cl:4])[O:6][CH3:2].[NH2:8][H:9]>>[CH3:1][O:5][P:7](=[O:3])([O:6][CH3:2])[NH2:8].[Cl:4][H:9]", "epd": [["LP-/Sigma+", [8], [7, 8]], ["Pi-/LP+", [3, 7], [3]], ["LP-/Pi+", [3], [3, 7]], ["Sigma-/LP+", [4, 7], [4]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [8, 9], [8]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:5][C:13](=[C:10]=[N-:16])[c:18]1[cH:19][cH:21][cH:28][cH:22][cH:20]1.[O:1]=[C:26]1[N:6]([CH3:23])[C:25](=[O:8])[N:7]([CH3:24])[C:27](=[O:2])[C:14]1=[CH:17][c:9]1[cH:29][cH:3][c:15]([O:12][CH3:11])[cH:4][cH:30]1>>[O-:1][c:26]1[n:6]([CH3:23])[c:25](=[O:8])[n:7]([CH3:24])[c:27](=[O:2])[c:14]1[CH:17]([c:9]1[cH:29][cH:3][c:15]([O:12][CH3:11])[cH:4][cH:30]1)[C:13]([CH3:5])([C:10]#[N:16])[c:18]1[cH:19][cH:21][cH:28][cH:22][cH:20]1", "epd": [["LP-/Pi+", [16], [10, 16]], ["Pi-/Sigma+", [13, 10], [13, 17]], ["Pi-/Pi+", [17, 14], [14, 26]], ["Pi-/LP+", [26, 1], [1]]]}
{"reaction_name": "SnCl4 oxocarbenium activation", "rsmi": "[Cl:1][Sn:9]([Cl:2])([Cl:3])[Cl:4].[Cl:5][CH2:7][O:6][CH3:8]>>[Cl:1][Sn-:9]([Cl:2])([Cl:3])([Cl:4])[Cl:5].[O+:6](=[CH2:7])[CH3:8]", "epd": [["LP-/Sigma+", [5], [5, 9]], ["Sigma-/LP+", [5, 7], [5]], ["LP-/Pi+", [6], [6, 7]]]}
{"reaction_name": "Transannular carbonyl addition", "rsmi": "[CH2:1]1[CH2:3][C:8](=[O:4])[CH2:5][CH2:10][CH2:9][CH-:2][CH2:7][CH2:6]1>>[CH2:1]1[CH2:3][C:8]2([O-:4])[CH:2]([CH2:7][CH2:6]1)[CH2:9][CH2:10][CH2:5]2", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Pi-/LP+", [4, 8], [4]]]}
